US06576621B1
1-(2,3,5-Tri-O-benzyl-4-thio-α,β--arabinofuranosyl)5-fluorocytosine (7a).
To a suspension of 1-O-acetyl 2,3,5-tri-O-benzyl-4-thio-D-arabinofuranose (478 mg, 1 mmol) and cytosine (129.0 mg, 1 mmol) in anhydrosis acetonitrile (25 mmol) were added consecutively hexamethyldisilazane (HMDS, 162 mg, 1 mmol) and chlorotrimethylsilane (TMSCl, 434 mg, 4 mmol), and the mixture was stirred at room temperature for 0.5 hours. This solution was cooled to −78° C. Trimethylsilyltrifluoromethane sulfonate (267 mg, 1.2 mmol) was added and the resulting solution was stirred at −78° C. for another 2.5 h, after which time the reaction was essentially complete. The mixture was warmed to room temperature, concentrated to a small volume (5 mL), diluted with methylene chloride (50 mL) and then washed with water (20 mL) followed by saturated sodium bicarbonate and water. The organic layer was dried over MgSO4 and evaporated to dryness. The residue was purified by chromatography over silica gel (50 g. elution with CHCl3/MEOH 98:2) to afford 7 as 2:1α,β mixture(425.2 mg 80.0%) as a colorless syrup TLC (95:5 CHCl3/MEOH) Rf 0.65; MS z/e 553 (M+Li)+.

reactant | 1-O-acetyl 2,3,5-tri-O-benzyl-4-thio-D-arabinofuranose | 1 mmol, 478 mg | C(C)(=O)OC1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](S1)COCC1=CC=CC=C1 | C28H30O5S
reactant | cytosine | 1 mmol, 129.0 mg | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | acetonitrile | 25 mmol | C(C)#N | C2H3N
reactant | hexamethyldisilazane | 1 mmol, 162 mg | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | 4 mmol, 434 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | Trimethylsilyltrifluoromethane sulfonate | 1.2 mmol, 267 mg | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
product | 1-(2,3,5-Tri-O-benzyl-4-thio-α,β--arabinofuranosyl)5-fluorocytosine | C(C1=CC=CC=C1)O[C@@H]1C(S[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C(=O)N=C(N)C(=C1)F | C30H30FN3O4S
